US07893058B2
Step 3: (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(1-Isopropylpiperidin-4-yl)-phenyl]amine
N,N-Diisopropylethylamine (360 μL, 2.2 mmol) is added to a mixture of 4-(1-isopropylpiperidin-4-yl)phenylamine (220 mg, 1.0 mmol) and 5,8-dibromoimidazo[1,2-a]pyrazine (280 mg, 1.0 mmol) in iPrOH (5 mL) and heated at reflux for 48 h. The mixture is cooled and the solvent evaporated under reduced pressure to afford an orange-brown solid. This is partitioned between DCM (50 mL) and water (20 mL) and the layers are separated. The organic phase is washed with citric acid (10% aq., 3×25 mL). The combined washings are extracted with DCM (25 mL) and then made basic by addition of NaHCO3 (s). The mixture is extracted with DCM (3×25 mL) and the combined extracts dried over MgSO4 and evaporated. The material is used without further purification.

reactant | N,N-Diisopropylethylamine | 2.2 mmol, 360 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(1-isopropylpiperidin-4-yl)phenylamine | 1.0 mmol, 220 mg | C(C)(C)N1CCC(CC1)C1=CC=C(C=C1)N | C14H22N2
reactant | 5,8-dibromoimidazo[1,2-a]pyrazine | 1.0 mmol, 280 mg | BrC1=CN=C(C=2N1C=CN2)Br | C6H3Br2N3
solvent | iPrOH | 5 mL | CC(C)O | C3H8O
product | (5-Bromo-imidazo[1,2-a]pyrazin-8-yl)-[4-(1-Isopropylpiperidin-4-yl)-phenyl]amine | BrC1=CN=C(C=2N1C=CN2)NC2=CC=C(C=C2)C2CCN(CC2)C(C)C | C20H24BrN5
